US06517836B1
Similar reaction of crude 5-chloro-2,4-dinitrobenzoyl chloride in Et2O with 4-[2-(methylamino)ethyl]morpholine (2 equiv) in water, followed by chromatography of the product on alumina-90, eluting with EtOAc, gave 5-chloro-N-methyl-N-[2-(4-morpholino)ethyl]-2,4-dinitrobenzamide (48%), mp (EtOAc/iPr2O) 123-123.5° C. 1H NMR [(CD3)2SO] [rotamer mixture] δ8.94 & 8.94 (2xs, 1H, H-3), 8.13 & 8.09 (2xs, 1H, H-6), [3.63-3.54 (m), 3.51, t (J=4.6 Hz) & 3.28-3.18(m), 6H, O(CH2)CH2, N(CH3)CH2], 3.05 & 2.89 (2xs, 3H, CH3), [2.57 (t, J=6.6 Hz), 2.50-2.38 (m) & 2.25 (t, J=4 3 Hz), 6H, CH2N(CH2)CH2]. Anal. Calcd. for C14H17ClN4O6: C, 45.11,H, 4.60; N, 15.03. Found: C, 45.01;H, 4,43, N, 15.02%.

reactant | 5-chloro-2,4-dinitrobenzoyl chloride | ClC=1C(=CC(=C(C(=O)Cl)C1)[N+](=O)[O-])[N+](=O)[O-] | C7H2Cl2N2O5
reactant | 4-[2-(methylamino)ethyl]morpholine | 2 equiv | CNCCN1CCOCC1 | C7H16N2O
reactant | Et2O | CCOCC | C4H10O
solvent | water | O | H2O
product | EtOAc iPr2O | CCOC(=O)C.O(C(C)C)C(C)C | InChI=1S/C6H14O.C4H8O2/c1-5(2)7-6(3)4;1-3-6-4(2)5/h5-6H,1-4H3;3H2,1-2H3
